US05500453
A mixture of 7.20 g of didodecylphenacylsulfonium bromide and 3.87 g of lithium butyltriphenylborate was stirred in 200 ml of ethanol at room temperature for 30 minutes. The reaction mixture was poured into 1,000 ml of water, and the resultant oily component was separated, recovered, washed with water and dried to give 6.78 g of didodecylphenacylsulfonium-butyltriphenylborate.

reactant | didodecylphenacylsulfonium bromide | 7.20 g | [Br-].C(CCCCCCCCCCC)[S+](CC(=O)C1=CC=CC=C1)CCCCCCCCCCCC
reactant | lithium butyltriphenylborate | 3.87 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | water | 1,000 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | didodecylphenacylsulfonium butyltriphenylborate | 6.78 g | C(CCCCCCCCCCC)[S+](CC(=O)C1=CC=CC=C1)CCCCCCCCCCCC.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C32H57OS.C22H24B/c1-3-5-7-9-11-13-15-17-19-24-28-34(30-32(33)31-26-22-21-23-27-31)29-25-20-18-16-14-12-10-8-6-4-2;1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22/h21-23,26-27H,3-20,24-25,28-30H2,1-2H3;4-18H,2-3,19H2,1H3/q+1;-1
